US08633189B2
2-(5-Methyl-2-nitro-phenyl)-1-morpholino-ethanone (267 mg, 1.01 mmol) was dissolved in toluene (10 mL) and treated with borane dimethylsulfide (983 mg, 1.23 mL, 11.7 mmol) and heated at reflux for 2 h. The reaction was concentrated in vacuo then resuspended in 2 N HCl (8 mL) and heated at reflux for 30 min. The reaction was diluted with 1N HCl and washed with ethyl acetate. The solution was basified (5 N NaOH) and the product extracted into dichloromethane (3×20 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to provide 4-[2-(5-methyl-2-nitro-phenyl)ethyl]morpholine as an oil (200 mg, 79% yield). LC/MS m/z 251.2 [M+H]+.

reactant | 2-(5-Methyl-2-nitro-phenyl)-1-morpholino-ethanone | 1.01 mmol, 267 mg | CC=1C=CC(=C(C1)CC(=O)N1CCOCC1)[N+](=O)[O-] | C13H16N2O4
reactant | borane dimethylsulfide | 11.7 mmol, 1.23 mL, 983 mg | CSC.B
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(5-methyl-2-nitro-phenyl)ethyl]morpholine | 200 mg, 79% yield | CC=1C=CC(=C(C1)CCN1CCOCC1)[N+](=O)[O-] | C13H18N2O3
